US06140100
A 300 mL Parr bomb was charged with 10.0 g of 2-iodobenzyl alcohol (Aldrich), 80 mL of toluene, 30 mL of cyclopentene (Aldrich), 2.60 g of tri-ortho-tolylphosphine (Aldrich), and 6.6 mL of Et3N. The mixture was deoxygenated by bubbling N2 through for 10 min and was then treated with 0.96 g of Pd(OAc)2 (Aldrich). The bomb was flushed with N2, sealed, and heated to 100° C. for 18 h. The vessel was cooled to RT, purged with N2 and opened. The dark red reaction mixture was concentrated in vacuo to give a red-brown syrup. This material was dissolved in 200 mL of CH2Cl2, washed with water (4×100 mL), dried over anhydrous MgSO4, and concentrated in vacuo to afford a brown oil. Analysis by tlc (SiO2, 8:2 hexane:EtOAc) indicated two new major components at Rf =0.45 and 0.50, tri-o-tolyphosphine at Rf =0.90, and 4 minor components at Rf =0.60, 0.70, 0.85 and 0.0. The crude product was purified by flash chromatography (twice) on 200 g of silica gel (9:1 hexane:EtOAc) to afford 6:1 g (82%) of a mixture of the Rf =0.45 and 0.50 materials. This material was determined to be a mixture of double bond isomers by 1H-NMR. The product (6.0g ) was then hydrogenated at 40 psi in 40 mL of MeOH in the presence of 0.60 g of 5% Pt(C) (Aldrich) for 4 h. The catalyst was removed by filteration through celite and the filtrate was concentrated in vacuo to afford 5.47 g (74% from 2-iodobenzyl alcohol) of 2-cyclopentylbenzyl alcohol as a light yellow-brown liquid.

reactant | 2-iodobenzyl alcohol | 10.0 g | IC1=C(CO)C=CC=C1 | C7H7IO
reactant | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
reactant | cyclopentene | 30 mL | C1=CCCC1 | C5H8
reactant | tri-ortho-tolylphosphine | 2.60 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | tri-o-tolyphosphine | CC1=CC=CC=C1P(C2=CC=CC=C2C)C3=CC=CC=C3C | C21H21P
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 40 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | hexane | CCCCCC | C6H14
solvent | Et3N | 6.6 mL | CCN(CC)CC | C6H15N
product | 2-cyclopentylbenzyl alcohol | 5.47 g, 74% | C1(CCCC1)C1=C(CO)C=CC=C1 | C12H16O
